US05776983
B. α-(Aminomethyl)-3,4-dimethoxybenzeneacetic acid, methyl ester
A MeOH solution (100 mL) containing methyl 3,4-dimethoxyphenylcyanoacetate (1.2 g, 5.1 mmol), TFA (1 mL), and 50 mg of 10% Pd/C was shaken on a Parr shaker for 20 hours under 30 psi of hydrogen. The reaction was filtered, concentrated, dissolved in H2O, and extracted 2× with Et2O. The pH was adjusted to ~10 and the mixture extracted 3× with EtOAc. The EtOAc fractions were dried over Na2SO4 and concentrated to yield 400 mg (32%) of the title compound.

reactant | methyl 3,4-dimethoxyphenylcyanoacetate | 5.1 mmol, 1.2 g | COC=1C=C(C=CC1OC)C(C(=O)OC)C#N | C12H13NO4
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 50 mg | [Pd] | Pd
solvent | MeOH | 100 mL | CO | CH4O
product | α-(Aminomethyl)-3,4-dimethoxybenzeneacetic acid, methyl ester | 400 mg, 32% | NCC(C(=O)OC)C1=CC(=C(C=C1)OC)OC | C12H17NO4
